US07842696B2
DIPEA (182 mg, 0.24 mL, 1.4 mmol) was added to a stirred solution of [(1-biphenyl-4-yl-ethyl)-tert-butoxycarbonyl-amino]-acetic acid (100 mg, 0.28 mmol) in DMF (5 mL). HOBT (42 mg, 0.31 mmol) and EDCI (135 mg, 0.7 mmol) were then added at room temperature. After 2 minutes, (5-Fluoro-2-trifluoromethyl-phenyl)-piperazin-1-yl-methanone hydrochloride salt (105 mg, 0.3 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by column chromatography (using 60-120 silica gel and 30-50% EtOAc in hexane as eluent) to afford 43 mg (27.56% yield) of (1-biphenyl-4-yl-ethyl)-{2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester, LCMS Purity: 96.02%. 1H NMR (CDCl3): δ 7.78 (t 1H), 7.64-7.5 (s, 4H), 7.5-7.3 (m, 5H), 7.24 (d, 1H), 7.04 (m, 1H), 5.8-5.2 (bd, 2H), 4.0 (s, 1H), 3.8 (s, 3H), 3.6-3.2 (m, 5H), 3.1 (s, 3H), 1.5 (s, 9H).

reactant | DIPEA | 1.4 mmol, 0.24 mL, 182 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | [(1-biphenyl-4-yl-ethyl)-tert-butoxycarbonyl-amino]-acetic acid | 0.28 mmol, 100 mg | C1(=CC=C(C=C1)C(C)N(C(=O)OC(C)(C)C)CC(=O)O)C1=CC=CC=C1 | C21H25NO4
reactant | HOBT | 0.31 mmol, 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.7 mmol, 135 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (5-Fluoro-2-trifluoromethyl-phenyl)-piperazin-1-yl-methanone hydrochloride salt | 0.3 mmol, 105 mg | Cl.FC=1C=CC(=C(C1)C(=O)N1CCNCC1)C(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (1-biphenyl-4-yl-ethyl)-{2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 43 mg, 27.56% yield | C(C)(C)(C)OC(N(CC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O)C(C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C33H35F4N3O4
